US04409228
Following the modus operandi described in Example 1, by reaction of 4-acetamidopiperidine with 2,3-dichloropyridine, 4-acetamido-2-(3-chloropyridyl)piperidine is obtained, with a yield of 70%, which, after crystallization in ethyl acetate, melts at 118° to 120° C. By hydrolysis of the product thus obtained with 6 N hydrochloride acid, the monohydrochloride of 4-amino-1-(3-chloropyridyl)piperidine (CM 57375) is obtained which is crystallised in 90% ethanol; m.p. 258° to 260° C. with decomposition.

reactant | 4-acetamidopiperidine | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | 2,3-dichloropyridine | ClC1=NC=CC=C1Cl | C5H3Cl2N
product | 4-acetamido-2-(3-chloropyridyl)piperidine | yield of 70% | C(C)(=O)NC1CC(NCC1)C1=NC=CC=C1Cl | C12H16ClN3O
